US09193689B2
3-Chloro-5-methyl-2H-isoquinolin-1-one (50 mg, 0.26 mmol), 4-carboxybenezeneboronic acid (64 mg, 0.39 mmol), K2CO3 (73 mg, 0.52 mmol) and Pd(dppf)Cl2 (11 mg, 0.013 mmol) in DME/EtOH/H2O 4:0.5:1 (2.75 mL) were added to a microwave vial and the reaction mixture purged with N2 for 10 min. The reaction mixture was irradiated using a microwave (300 W, 120° C., 2 h). The reaction mixture was concentrated in vacuo, water added and the mixture acidified to pH2 with 0.2M HCl aq. A brown solid precipiated from the solution which was filtered and dried in vacuo, dissolved in DMF and passed through a Si-thiol cartridge, eluting with DMF (4× column volumes) and the solvent removed in vacuo. The resulting solid was triturated with MeOH, filtered and dried to give 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoic acid as a beige solid (29 mg, 40%).

reactant | 3-Chloro-5-methyl-2H-isoquinolin-1-one | 0.26 mmol, 50 mg | ClC=1NC(C2=CC=CC(=C2C1)C)=O | C10H8ClNO
reactant | K2CO3 | 0.52 mmol, 73 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME EtOH H2O | 2.75 mL | COCCOC.CCO.O
catalyst | Pd(dppf)Cl2 | 0.013 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoic acid | 29 mg, 40% | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C(=O)O)C=C1 | C17H13NO3
